US05596009
Methyl (2-aminomethyl-1,2,3,4-tetrahydronaphthalen-5-yl)oxyacetate
To a solution of methyl (2-hydroxymethyl-l,2,3,4-tetrahydronaphthalen-5-yl)oxyacetate (1.15 g), phthalimide (1.22 g) and triphenylphosphine (2.17 g) in tetrahydrofuran (50 ml) was added diethyl azodicarboxylate (1.6 ml) at -20° C. After stirred for 2 h, the mixture was quenched by addition of water. The mixture was extracted with ether. The extract was washed with a saturated aquous solution of sodium chloride, dried over anhydrous magnesium sulfate and evaporated. To a solution of the obtained residue in ethanol (30 ml) was added hydrazine monohydrate (0.7 ml) at room temperature. The mixture was stirred overnight. The mixture was quenched by addition of water (20 ml) and evaporated. The residue was crystallized from 2N hydrochloric acid (20 ml) to give the title compound (700 mg) having the following physical data.

reactant | methyl (2-hydroxymethyl-l,2,3,4-tetrahydronaphthalen-5-yl)oxyacetate | 1.15 g | OCC1CC2=CC=CC(=C2CC1)OCC(=O)OC | C14H18O4
reactant | phthalimide | 1.22 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 2.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Methyl (2-aminomethyl-1,2,3,4-tetrahydronaphthalen-5-yl)oxyacetate | 700 mg | NCC1CC2=CC=CC(=C2CC1)OCC(=O)OC | C14H19NO3
